US09421209B2
Intermediate 79: 3-(3-fluoro-5-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
To a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.700 g, 2.68 mmoles) in DMF (10 ml), ethanol (5 ml) and water (5 ml), 3-Fluoro-5-methoxyphenyl boronic acid (0.592 g, 3.48 mmoles) and sodium carbonate (1.42 g, 13.40 mmoles) were added and the system is degassed for 30 min. Palladium tetrakis triphenylphosphine (0.588 g, 0.509 mmoles) was added under nitrogen atmosphere and heated to 80° C. After 12 h, the reaction mixture was celite filtered, concentrated and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by column chromatography with methanol:dichloromethane to afford the title compound as yellow solid (0.260 g, 37% yield). 1H-NMR (δ ppm, DMSO-d6, 400 MHz): δ 13.64 (s, 1H), 8.21 (s, 1H), 7.03 (m, 2H), 6.93 (td, J=11.1, 2.3 Hz, 1H), 3.83 (s, 3H).

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.68 mmoles, 0.700 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | 3-Fluoro-5-methoxyphenyl boronic acid | 3.48 mmoles, 0.592 g | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 13.40 mmoles, 1.42 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-(3-fluoro-5-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.260 g, 37% yield | FC=1C=C(C=C(C1)OC)C1=NNC2=NC=NC(=C21)N | C12H10FN5O
